US09238631B2
b)) Di-tert-butyl (4S)-4-{4-[trans-(3-hydroxycyclobutyl)oxy]benzyl}-N-(tert-butoxy-carbonyl)-L-glutamate
43 mg (0.07 mmol) of di-tert-butyl (4S)-4-(4-{trans-[3-(benzyloxy)cyclobutyl]oxy}benzyl)-N-(tert-butoxycarbonyl)-L-glutamate were dissolved in 10 mL of methanol and under argon atmosphere palladium (10% on charcoal) was added and the suspension hydrogenated overnight at room temperature. The reaction mixture was filtered, the solvent evaporated and the residue was chromatographed on silica gel using a hexane/ethyl acetate gradient, and the appropriate fractions were combined and concentrated.

reactant | di-tert-butyl (4S)-4-(4-{trans-[3-(benzyloxy)cyclobutyl]oxy}benzyl)-N-(tert-butoxycarbonyl)-L-glutamate | 0.07 mmol, 43 mg | C(C1=CC=CC=C1)O[C@@H]1C[C@H](C1)OC1=CC=C(C[C@@H](C[C@H](NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1 | C36H51NO8
solvent | methanol | 10 mL | CO | CH4O
solvent | palladium | [Pd] | Pd
product | Di-tert-butyl (4S)-4-{4-[trans-(3-hydroxycyclobutyl)oxy]benzyl}-N-(tert-butoxy-carbonyl)-L-glutamate | O[C@@H]1C[C@H](C1)OC1=CC=C(C[C@@H](C[C@H](NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1 | C29H45NO8
